US05270308
Methanol (2.1 liters) was added to 4-chlorosalicylic acid (60 g) and sodium acetate (120 g), and the mixture was cooled to -70° C. and stirred. To this mixture was added dropwise a solution of bromine (55.7 g) in methanol (557 ml) over 1.5 hours. After the reaction mixture was allowed to warm to room temperature, the solvent was distilled off under reduced pressure. The residue was acidified by addition of dilute hydrochloric acid (2 liters). The precipitate was filtered off, dissolved in ethyl acetate, dried over anhydrous magnesium sulfate, and the solvent was concentrated. The deposited crystals were recrystallized from hydrous ethanol to obtain 5-bromo-4-chlorosalicylic acid (43.8 g, mp. 208°-213° C.). According to the same manner as that described in Reference Example 1, by using this compound as the starting compound, 6-bromo-7-chloro-2,2-dimethyl-2H-1,3-benzoxazin-4-one (29.2 g) (Compound A-26) was obtained. The physical properties are shown in Table 1.

reactant | 4-chlorosalicylic acid | 60 g | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | sodium acetate | 120 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 55.7 g | BrBr | Br2
solvent | methanol | 557 ml | CO | CH4O
solvent | Methanol | 2.1 liters | CO | CH4O
product | 5-bromo-4-chlorosalicylic acid | 43.8 g | BrC1=C(C=C(C(C(=O)O)=C1)O)Cl | C7H4BrClO3
